*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

*//////////////////////////////////////////////////////////
*LM6265 High Speed OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM6265/NS   1   2  99  50  28
*
*Features:
*Low supply current =    5mA
*High bandwidth =     725MHz
*High slew rate =    300V/uS
*
****************INPUT STAGE**************
*
IOS 2 1 150N
*^Input offset current
CI1 1 0 6P
CI2 2 0 6P
R1 1 3 10K
R2 3 2 10K
I1 4 50 1M
R3 99 5 51.7
R4 99 6 51.7
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=120 MHz
C4 5 6 12.827P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 4M
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 1E-3 1
*Input offset voltage.^
R8 99 49 80K
R9 49 50 80K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.43
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.23
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
F1 9 98 POLY(2) VA1 VA3 0 0 0 0 0 0 4.25 0 0 4.978143E5
G1 98 9 POLY(1) 5 6 0 38.0E-3
*Fp1=25.1 KHz
R5 98 9 1MEG
VA3 9 11 0
C3 98 11 3.897P
*
***************POLE STAGE***************
*
*Fp=120 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 1.3263E-15
*
***************POLE STAGE***************
*
*Fp=124 MHz
G5 98 18 15 49 1E-6
R15 98 18 1MEG
C6 98 18 1.2835E-15
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=10 KHz
G4 98 16 3 49 7.94328E-9
L2 98 17 15.915E-3
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 200U 1
VA1 99 93 0
E1 93 23 99 18 1
R16 24 23 10
D5 26 24 DX
V6 26 22 .63V
R17 23 25 10
D6 25 27 DX
C9 23 22 500P
V7 22 27 .63V
V5 22 21 .25V
D4 21 18 DX
V4 20 22 .25V
D3 18 20 DX
L3 22 28 100P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX NPN(BF=200)
*
.ENDS
*$
